US09260448B2
Compound 76: 3-(4-Chlorophenyl)-2-(dimethylamino)-7-phenylthieno[3,2-d]pyrimidin-4(3H)-one
The thus synthesized compound 2-chloro-3-(4-chlorophenyl)-7-phenyl-2,3-dihydrothieno[3,2-d]pyrimidin-4(1H)-one (22.7 mg, 0.06 mmol) was mixed with a solution of N,N-dimethylamine (3 ml) and diisopropylethylamine (0.01 ml, 0.06 mmol) in THF. The mixture was heated with stirring at 65° C. overnight. After the completion of the reaction was confirmed by TLC, the reaction mixture was cooled to room temperature and separated with water and dichloromethane. The extracted organic layer was washed with brine, dried over anhydrous MgSO4, and filtered. The filtrate was distilled under reduced pressure. The concentrate was purified by silica gel column chromatography (EtOAc:Hex=1:5) to give 14.1 mg (0.037 mmol, 62% yield) of the title compound.

reactant | 2-chloro-3-(4-chlorophenyl)-7-phenyl-2,3-dihydrothieno[3,2-d]pyrimidin-4(1H)-one | 0.06 mmol, 22.7 mg | ClC1N(C(C2=C(N1)C(=CS2)C2=CC=CC=C2)=O)C2=CC=C(C=C2)Cl | C18H12Cl2N2OS
reactant | N,N-dimethylamine | 3 ml | CNC | C2H7N
reactant | diisopropylethylamine | 0.06 mmol, 0.01 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | 3-(4-Chlorophenyl)-2-(dimethylamino)-7-phenylthieno[3,2-d]pyrimidin-4(3H)-one | 0.037 mmol, 14.1 mg, 62% yield | ClC1=CC=C(C=C1)N1C(=NC2=C(C1=O)SC=C2C2=CC=CC=C2)N(C)C | C20H16ClN3OS
